US09084794B2
c) (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undec-9-yl)-2-[2-fluoro-4-(7-quinolinyl)phenyl]acetamide
Argon was bubbled through a suspension of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undec-9-yl)acetamide (4.61 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (5.76 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.138 mmol), and 2.0 M aqueous potassium carbonate (18.44 mmol) in 1,4-dioxane (36.9 mL) for 10 minutes then the reaction was heated at 100° C. for 2 hours. The reaction was cooled, treated with silica powder (˜10 g) then evaporated under reduced pressure to dryness. Purification of the residue on silica gel by flash chromatography (ethyl acetate, then 10% methanol/ethyl acetate) followed by combination of the product fractions and concentration to a residue that was taken into dichloromethane, filtered through celite, and concentrated in vacuo afforded the title product racemate (2.27 g, 91% yield) as a light tan solid. MS(ES)+ m/e 489.5 [M+H]+. Chiral resolution of the racemate by chiral HPLC (Chromegachiral CC4, methanol) gave the title product as a light yellow foam (1.0 g, 45%). This solid was triturated with hot 3,3-dimethyl-2-butanone (10 mL) with ultrasonification for 5 minutes. The suspension was cooled to room temperature and the solids were filtered then vacuum dried to afford the title compound as an off white solid in 100% ee (770 mg, 34%). MS(ES)+ m/e 489.4 [M+H]+. αD=+43 deg (c=0.2, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undec-9-yl)acetamide | 4.61 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 5.76 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 18.44 mmol, 2.0 M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 36.9 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.138 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undec-9-yl)-2-[2-fluoro-4-(7-quinolinyl)phenyl]acetamide | 91% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C28H29FN4O3
